US06300368B1
4′-[2-(Ethylamino)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide (0.77 g) was suspended into methanol (5 ml) and 1N HCl/ethanol solution (3.95 ml) was added into this suspension. The compound dissolved completely and formed a uniform solution at once, but later on hydrochloride thereof was separated as crystals. Crystals were collected by filtration and washed with diethyl ether (10 ml), then dried under vacuum to obtain 4′-[2-(ethylamino)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide hydrochloride (0.80 g) as white crystal.

reactant | 4′-[2-(Ethylamino)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide | 0.77 g | C(C)NCCOC1=CC=C(NC(=O)C2CCOCC2)C=C1 | C16H24N2O3
reactant | HCl ethanol | 1N, 3.95 ml | Cl.C(C)O
solvent | methanol | 5 ml | CO | CH4O
product | 4′-[2-(ethylamino)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide hydrochloride | 0.80 g | Cl.C(C)NCCOC1=CC=C(NC(=O)C2CCOCC2)C=C1 | InChI=1S/C16H24N2O3.ClH/c1-2-17-9-12-21-15-5-3-14(4-6-15)18-16(19)13-7-10-20-11-8-13;/h3-6,13,17H,2,7-12H2,1H3,(H,18,19);1H
